* /home/saurabh/esim-workspace/cmos_nand_gate/cmos_nand_gate.cir
.include sky130nm.lib
.include xor.sub
.include and.sub
v1  A gnd pulse(0 1.8 0 0 0 17m 33m)
v2  B gnd pulse(0 1.8 0 0 0 10m 20m)
vc  vcc gnd dc 1.8
* u2  inputb plot_v1
* u1  inputa plot_v1
* u3  out plot_v1
x1 A B sum vcc xor
x2 A B cout vcc and
.tran 0.1e-03 100e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(A)
plot v(B)
plot v(cout)
plot v(sum)
.endc
.end
