.subckt and A B X vcc
X0 X1 B mid1 gnd sky130_fd_pr__nfet_01v8 w=0.55u l=0.15u
X1 mid1 A gnd gnd sky130_fd_pr__nfet_01v8 w=0.55u l=0.15u

X2 X1 B vcc vcc sky130_fd_pr__pfet_01v8 w=1.12u l=0.18u
X3 X1 A vcc vcc sky130_fd_pr__pfet_01v8 w=1.12u l=0.18u

X4 X X1 vcc vcc sky130_fd_pr__pfet_01v8 w=1.12u l=0.18u
X5 X X1 gnd gnd sky130_fd_pr__nfet_01v8 w=0.55u l=0.15u
.ends